US08124606B2
Compound 80B: Methyl 4-methyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine-7-carboxylate:
Methyl 6-((2-methoxy-2-oxoethyl)(methyl)amino)-5-nitronicotinate (2.7 g, 9.53 mmol) was dissolved in dichloromethane (10 mL). To the yellow solution was added ammonium metavanadate (30.0 mg, 0.256 mmol), triphenyl phosphite (aprox 30 ul, 0.097 mmol), and Pt/C (300 mg, 5% w/w). The reaction mixture was pressurized with hydrogen gas (110 psi) and stirred at room temperature for 16 h. The reaction was then depressurized and diluted with dichloromethane (100 mL) which was then refluxed for 30 min. The hot solution was filtered through a pad of celite and washed with hot dichloromethane (3×20 mL). The filtrate was concentrated in vacuo to yield the title compound (1.45 g, 68%) as a white solid. [M+H] calc'd for C10H11N3O3, 222. found, 222.

reactant | Methyl 6-((2-methoxy-2-oxoethyl)(methyl)amino)-5-nitronicotinate | 9.53 mmol, 2.7 g | COC(CN(C1=NC=C(C(=O)OC)C=C1[N+](=O)[O-])C)=O | C11H13N3O6
reactant | triphenyl phosphite | 0.097 mmol, 30 ul | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | hydrogen | [H][H] | H2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | ammonium metavanadate | 0.256 mmol, 30.0 mg | [NH4+].[O-][V](=O)=O
catalyst | Pt/C | 300 mg | [Pt] | Pt
product | Methyl 4-methyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine-7-carboxylate | 1.45 g, 68% | CN1C2=C(NC(C1)=O)C=C(C=N2)C(=O)OC | C10H11N3O3
